US08110575B2
Step 1: phenethyl-(2,2,2-trifluoroethyl)-amine
1.9 g (8.3 mmol) 2,2,2-trifluoroethyltrifluoromethanesulphonate were added to 2.0 g (16.5 mmol) phenethylamine in 50 mL xylene and the reaction mixture was refluxed overnight. After cooling the precipitate formed was suction filtered, washed with DIPE and the filtrate washed evaporated down i.vac. The residue was purified by flash chromatography. The product fractions were combined and evaporated down i.vac.

reactant | 2,2,2-trifluoroethyltrifluoromethanesulphonate | 8.3 mmol, 1.9 g | FC(COS(=O)(=O)C(F)(F)F)(F)F | C3H2F6O3S
reactant | phenethylamine | 16.5 mmol, 2.0 g | C(CC1=CC=CC=C1)N | C8H11N
solvent | xylene | 50 mL | C=1(C(=CC=CC1)C)C | C8H10
product | phenethyl-(2,2,2-trifluoroethyl)-amine | C(CC1=CC=CC=C1)NCC(F)(F)F | C10H12F3N
